US04389403
Using the process described in Example 57, 5.36 g (24 millimoles) of quinolin-2-oyl-imidazolide and 4.6 g (20 millimoles) of 2-(2',6'-dichlorophenylamino)-2-imidazoline give 6.5 g of pure 1-(quinolin-2-oyl)-2-(2',6'-dichlorophenylamino)-2-imidazoline of melting point 193.5°-196° C.; the material is identical with the product obtained according to Example 45.

reactant | quinolin-2-oyl-imidazolide | 24 millimoles, 5.36 g | N1=C(C=CC2=CC=CC=C12)C(=O)C=1[N-]C=CN1
reactant | 2-(2',6'-dichlorophenylamino)-2-imidazoline | 20 millimoles, 4.6 g | ClC1=C(C(=CC=C1)Cl)NC=1NCCN1 | C9H9Cl2N3
product | 1-(quinolin-2-oyl)-2-(2',6'-dichlorophenylamino)-2-imidazoline | 6.5 g | N1=C(C=CC2=CC=CC=C12)C(=O)N1C(=NCC1)NC1=C(C=CC=C1Cl)Cl | C19H14Cl2N4O
